US08039620B2
In a 3.0 lit 4 neck round bottom flask equipped with mechanical stirrer, Thermo pocket were charged DM water (507 ml) and 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene tosylate salt (169 g having a total purity of 99.99% obtained in example 6). The above suspension was stirred for 30 minutes at 25-30° C. To this was added 25% aqueous ammonia solution (60 ml) to adjust the pH to 9.0-10 at 25-30° C., and maintained with stirring for 30 minutes. MDC (507 ml) was charged in this solution. The resulting mixture was stirred for 30 minutes at 20-25° C. The layers were separated, and the aqueous layer was extracted with MDC (4×507 ml). The combined organic layer washed with DM water (507 ml). The organic layer was treated with activated Carbon (16.9 g), and stirred for 30 minutes at 25-30° C. The resulting solution was filtered through celite, concentrated to leave 1 volume of MDC with product, charged with 845 ml n-heptane at 45-50° C., and distilled under vacuum to remove a mixture of MDC and n-heptane to leave 3 volumes of n-heptane. The solid material was cooled to 25-30° C., and filtered at 25-30° C. to afford a solid product, i.e. 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene. The solid obtained was dried in vacuum oven at 45° to 50° C. (Yield—84 g (94.49% (relative to VRN-Tosylate)), HPLC purity—99.97%).

reactant | water | 507 ml | O | H2O
reactant | 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene tosylate salt | S(=O)(=O)(O)C1=CC=C(C)C=C1.C12C=3C=C4N=CC=NC4=CC3C(CNC1)C2
reactant | ammonia | 60 ml | N | H3N
solvent | n-heptane | 845 ml | CCCCCCC | C7H16
product | 5,8,14-Triazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaene | C12C=3C=C4N=CC=NC4=CC3C(CNC1)C2 | C13H13N3
